US06140344
To a room temperature solution of 4-(3,4-dichlorobenzoyl)piperidine-1-carboxylic acid tert-butyl ester (3.8 g, 10.6 mmol) in methylene chloride (100 mL) was added trifluoroacetic acid (25 mL) and the solution was stirred for 1 h. After removing the organics, ethyl acetate (200 mL) was added and the resulting solution was basified with 1N aqueous sodium hydroxide solution. The ethyl acetate layer was separated, dried with magnesium sulfate and concentrated to give 4-(3,4-dichlorobenzoyl)piperidine (2.73 g) as a white solid.

reactant | 4-(3,4-dichlorobenzoyl)piperidine-1-carboxylic acid tert-butyl ester | 10.6 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C17H21Cl2NO3
reactant | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(3,4-dichlorobenzoyl)piperidine | 2.73 g | ClC=1C=C(C(=O)C2CCNCC2)C=CC1Cl | C12H13Cl2NO
